US06911463B2
POCl3 (10.9 ml, 71 mmol) is added dropwise to 21 ml of dimethylformamide under N2 at 10-20° C., is stirred 15 minutes, then a 13 ml dimethylformamide solution of 5-methoxy-6-fluoro-indole (J. Med. Chem., 22:63-69, 1979; 10.7 g, 64.7 mmol) is added at a rate to keep the reaction temperature between 10 and 20° C. After the addition is complete, the mixture is stirred for 1 hour. Crushed ice and aqeuous NaOH (12.5 g/50 ml H2O) is added to reaction. The resulting mixture is heated to reflux with a heat gun for 1 minute, cooled to 10° C., and is filtered to give 11.8 g of 6-fluoro-5-methoxy-1H-indole-3-carbaldehyde (95%).

reactant | POCl3 | 71 mmol, 10.9 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 5-methoxy-6-fluoro-indole | 64.7 mmol, 10.7 g | COC=1C=C2C=CNC2=CC1F | C9H8FNO
reactant | NaOH | 50 ml, 12.5 g | [OH-].[Na+]
reactant | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 21 ml | CN(C=O)C | C3H7NO
product | 6-fluoro-5-methoxy-1H-indole-3-carbaldehyde | 11.8 g, 95% | FC1=C(C=C2C(=CNC2=C1)C=O)OC | C10H8FNO2
